US07915295B2
c) tert-butyl 2-{4-[(6-nitro-3-pyridinyl)oxy]benzoyl}hydrazinecarboxylate
To a mixture of tert-butyl 2-(4-hydroxybenzoyl)hydrazinecarboxylate (0.688 g, 2.73 mmol) and 5-bromo-2-nitropyridine (0.554 mg, 2.73 mmol) and caesium carbonate (1.33 g, 4.08 mmol) in N,N-dimethylformamide (7 mL) was stirred overnight at 80° C. The solution was concentrated and the residue was taken with dichloromethane and water. The organic phase was dried on MgSO4 and concentrated. The crude product was purified by column chromatography (silica gel, 5% MeOH in CH2Cl2), to give 736 mg of the mixture nitropyridine and bromopyridine.

reactant | tert-butyl 2-(4-hydroxybenzoyl)hydrazinecarboxylate | 2.73 mmol, 0.688 g | OC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C12H16N2O4
reactant | 5-bromo-2-nitropyridine | 2.73 mmol, 0.554 mg | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | caesium carbonate | 4.08 mmol, 1.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-{4-[(6-nitro-3-pyridinyl)oxy]benzoyl}hydrazinecarboxylate | 736 mg | [N+](=O)([O-])C1=CC=C(C=N1)OC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C17H18N4O6
